US05633379
995 mg (22.8 mmol) of sodium hydride in the form of a 55% suspension in mineral oil are placed at from 0° to 5° in 30 ml of tetrahydrofuran, and 2.1 25 ml (19 mmol) of thioglycolic acid ethyl ester are added dropwise thereto. The mixture is stirred for 30 minutes at from 0° to 5°; 3.9 g (19 mmol) of 3-(2-thienyl)propyl bromide are added dropwise under nitrogen at from 0° to 5° and the mixture is allowed to rise to room temperature and is then stirred for 3 hours. The mixture is then again cooled to from 0° to 5°, 200 ml of ethyl acetate and 100 ml of ice-water are added and the organic phase is separated off and then shaken twice with 100 ml of ethyl acetate each time. The combined organic phases are washed three times with 100 ml of water each time and then with saturated sodium chloride solution, dried over sodium sulfate, filtered, concentrated by evaporation under reduced pressure at 35° and distilled. 3.755 g (80.2% of theory) of 3-(2-thienyl)propylthioacetic acid ethyl ester are obtained in the form of a bright-yellow liquid.

reactant | sodium hydride | 22.8 mmol, 995 mg | [H-].[Na+]
reactant | thioglycolic acid ethyl ester | C(C)OC(CS)=O | C4H8O2S
reactant | 3-(2-thienyl)propyl bromide | 19 mmol, 3.9 g | S1C(=CC=C1)CCCBr | C7H9BrS
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(2-thienyl)propylthioacetic acid ethyl ester | 3.755 g, 80.2% | C(C)OC(CCCCC=1SC=CC1)=S | C11H16OS2
